US08030518B2
Step A: 5-Iodo-1,3-dimethyl-2-nitrobenzene
To a mixture of 2,6-dimethylnitrobenzene (151 g, 1.0 mol), acetic acid (1200 ml), and conc. H2SO4 (60 ml) was added iodine (102 g, 0.4 mol) and periodic acid dehydrate (205 g, 0.9 mol). The resulting solution was heated at 90° C. for 4 days. After cooling to room temperature, the reaction mixture was diluted with water (2000 ml). The yellow crystals were filtered and washed with water to give 220 g of pure product (79%). 1H-NMR δ (DMSO-d6, 300 MHz): 7.95 (d, J=7.8 Hz, 1H), 7.08 (d, J=7.8 Hz, 1H), 2.27 (s, 3H), 2.16 (s, 3H).

reactant | 2,6-dimethylnitrobenzene | 1.0 mol, 151 g | CC1=C(C(=CC=C1)C)[N+](=O)[O-] | C8H9NO2
reactant | H2SO4 | 60 ml | OS(=O)(=O)O | H2O4S
reactant | iodine | 0.4 mol, 102 g | II | I2
reactant | periodic acid | 0.9 mol, 205 g | I(=O)(=O)(=O)O | HIO4
solvent | water | 2000 ml | O | H2O
solvent | acetic acid | 1200 ml | C(C)(=O)O | C2H4O2
product | 5-Iodo-1,3-dimethyl-2-nitrobenzene | 220 g, 79% | IC=1C=C(C(=C(C1)C)[N+](=O)[O-])C | C8H8INO2
